### PR TITLE
add shared cfg analysis

### PR DESCRIPTION
**Pull request by Eduardogbg**
- adds shared CFG analysis closely matching how vyper works
- formulates correctness statements for CFG analysis
- add analysis cache helpers for CFG
  - which's why we should merge this only after #122

### CODE REVIEW

File: venom/analysis/cfg_comparison.md [hunk 1]
```diff
@@ -0,0 +1,69 @@
...
+
+It is intentionally concrete so we can track parity changes.
+
+Disparities vs Vyper (Python)
+-----------------------------
+
+1) Successor order
+- Vyper inserts successors in *reverse* order of `bb.out_bbs`:
+  `for next_bb in reversed(bb.out_bbs)`
+- Our branch previously used successors in the direct order.
```
Comment (charles-cooper) [inline venom/analysis/cfg_comparison.md]: does it match vyper's order now or not? if it doesn't, it can produce different code

File: venom/analysis/cfgAnalysisCorrectnessScript.sml [hunk 2]
```diff
@@ -0,0 +1,92 @@
...
+
+(* ==========================================================================
+   Well-formedness for CFG results
+   ========================================================================== *)
+
+Definition cfg_labels_def:
+  cfg_labels fn = MAP (λbb. bb.bb_label) fn.fn_blocks
+End
+
+Definition cfg_wf_def:
```
Comment (charles-cooper) [inline venom/analysis/cfgAnalysisCorrectnessScript.sml]: i'd like a natural language description of this definition in the comments please

File: venom/analysis/cfgAnalysisCorrectnessScript.sml [hunk 3]
```diff
@@ -0,0 +1,133 @@
...
+Proof
+  cheat
+QED
+
+(* ==========================================================================
+   Structural correctness statements (cheated)
+   ========================================================================== *)
+
+(* cfg_analyze produces succs that match bb_succs on each block. *)
+Theorem cfg_analyze_succs_correct:
```
Comment (charles-cooper) [inline venom/analysis/cfgAnalysisCorrectnessScript.sml]: i would call this something like cfg_analyze_preserves_bb_succs

File: venom/analysis/cfgAnalysisCorrectnessScript.sml [hunk 4]
```diff
@@ -0,0 +1,133 @@
...
+  !fn bb.
+    MEM bb fn.fn_blocks ==>
+    cfg_succs_of (cfg_analyze fn) bb.bb_label = bb_succs bb
+Proof
+  cheat
+QED
+
+(* preds are the inverse edge relation of succs. *)
+Theorem cfg_analyze_preds_correct:
```
Comment (charles-cooper) [inline venom/analysis/cfgAnalysisCorrectnessScript.sml]: cfg_analyze_inverse_edges_correct

File: venom/analysis/cfgAnalysisScript.sml [hunk 5]
```diff
@@ -0,0 +1,192 @@
...
+Ancestors
+  list finite_map
+  venomInst
+
+(* ==========================================================================
+   Small ordered-set helpers (list-backed)
+   ========================================================================== *)
+
+Definition ordset_add_def:
+  ordset_add x xs = if MEM x xs then xs else x::xs
```
Comment (xrchz) [inline venom/analysis/cfgAnalysisScript.sml]: Bit strange to think these are ordered but there's no comparison happening here

File: venom/analysis/cfgAnalysisCorrectnessScript.sml [hunk 6]
```diff
@@ -0,0 +1,236 @@
...
+     cfg_path (cfg_analyze fn) bb.bb_label lbl)
+Proof
+  cheat
+QED
+
+(* ==========================================================================
+   5) Traversal ordering (cheated)
+   ========================================================================== *)
+
+Definition index_of_def:
```
Comment (xrchz) [inline venom/analysis/cfgAnalysisCorrectnessScript.sml]: Pretty sure this is already defined in HOL somewhere

File: venom/analysis/cfgAnalysisCorrectnessScript.sml [hunk 7]
```diff
@@ -0,0 +1,236 @@
...
+    case xs of
+      [] => 0
+    | y::ys => if x = y then 0 else SUC (index_of x ys)
+End
+
+(* non-back-edge successors appear earlier than predecessors in postorder.
+ * reachable assumption is necessary since otherwise an unreachable node
+ * and their successor will have index_of = LENGTH
+ *)
+Theorem cfg_analyze_postorder_order:
```
Comment (charles-cooper) [inline venom/analysis/cfgAnalysisCorrectnessScript.sml]: this one is interesting and pretty strong statement that postorder is doing what we think it should be doing. i think if we are going to do this we should have the symmetric preorder property as well

File: venom/analysis/cfg_comparison.md [hunk 8]
```diff
@@ -0,0 +1,69 @@
...
+- compiler-pass-definitions also reverses.
+
+Impact: DFS and worklist order differ; analyses like liveness can converge to
+the same fixpoint but do not mirror Vyper’s traversal order.
+
+2) DFS postorder list orientation
+- Vyper’s DFS postorder `_dfs` preserves postorder (visit succs, then add bb).
+- Our branch previously built `cfg_dfs_post` by consing on EXIT, which produced
```
[the remark this answers is not in the document]
Comment (charles-cooper) [reply venom/analysis/cfg_comparison.md]: File replaced with `docs/cfg_analysis_parity.md` which documents the order match in detail (§2).

File: venom/venomInstScript.sml [hunk 9]
```diff
@@ -205,8 +205,18 @@ End
 (* Get the entry block of a function *)
 Definition entry_block_def:
   entry_block fn =
-    if NULL fn.fn_blocks then NONE
-    else SOME (HD fn.fn_blocks)
+    case lookup_block fn.fn_name fn.fn_blocks of
```
[the remark this answers is not in the document]
Comment (charles-cooper) [reply venom/venomInstScript.sml]: Agreed. Replaced `fn_wf_entry` with `fn_has_entry` (just `fn.fn_blocks <> []`, no fn_name link) @ 1464414

File: venom/analysis/cfgAnalysisCorrectnessScript.sml [hunk 10]
```diff
@@ -0,0 +1,100 @@
...
+(* reachable labels are exactly the DFS postorder labels. *)
+Theorem cfg_analyze_dfs_post_reachable:
+  !fn lbl.
+    cfg_reachable_of (cfg_analyze fn) lbl <=>
+    MEM lbl (cfg_dfs_post (cfg_analyze fn))
+Proof
+  cheat
+QED
+
+(* DFS preorder only contains labels from the function. *)
```
[the remark this answers is not in the document]
Comment (charles-cooper) [reply venom/analysis/cfgAnalysisCorrectnessScript.sml]: Added `cfg_analyze_reachable_sets`: `set(post) = set(pre) = {reachable}`. Together with `cfg_analyze_dfs_{pre,post}_distinct` this gives permutation equivalence.

File: venom/analysis/cfgAnalysisCorrectnessScript.sml (hunk 3 above)
Comment (charles-cooper) [reply venom/analysis/cfgAnalysisCorrectnessScript.sml]: Renamed @ f9482a5

File: venom/analysis/cfgAnalysisCorrectnessScript.sml (hunk 4 above)
Comment (charles-cooper) [reply venom/analysis/cfgAnalysisCorrectnessScript.sml]: Renamed to `cfg_analyze_edge_symmetry` (captures the biconditional better than inverse_edges_correct) @ f9482a5

File: venom/analysis/cfgAnalysisCorrectnessScript.sml [hunk 11]
```diff
@@ -0,0 +1,236 @@
...
+Definition cfg_acyclic_def:
+  cfg_acyclic cfg <=>
+    !a b. cfg_path cfg a b /\ cfg_path cfg b a ==> a = b
+End
+
+(* acyclic CFGs yield a clean postorder ordering for all edges.
+ * can be proved from cfg_analyze_postorder_order since cfg_acyclic
+ * implies there can be no back-edge b->a if b is a successor of a.
+ *)
+Theorem cfg_analyze_postorder_order_acyclic:
```
[the remark this answers is not in the document]
Comment (charles-cooper) [reply venom/analysis/cfgAnalysisCorrectnessScript.sml]: Deleted @ f9482a5

File: venom/analysis/cfgAnalysisCorrectnessScript.sml [hunk 12]
```diff
@@ -0,0 +1,133 @@
...
+
+(* ==========================================================================
+   Well-formedness for CFG results
+   ========================================================================== *)
+
+Definition cfg_labels_def:
+  cfg_labels fn = MAP (λbb. bb.bb_label) fn.fn_blocks
+End
+
+(* cfg_wf: basic shape invariants for a CFG built from fn.fn_blocks.
```
[the remark this answers is not in the document]
Comment (charles-cooper) [reply venom/analysis/cfgAnalysisCorrectnessScript.sml]: Refactored `wf_function` into named sub-predicates @ 0bdad89:
- `bb_well_formed` (venomInst) — block non-empty, ends with terminator
- `fn_has_entry` (venomInst) — fn_blocks non-empty
- `fn_succs_closed` (venomInst) — all successor labels exist in function
- `fn_labels` (venomInst, renamed from `cfg_labels`) — block labels of a function

```sml
wf_function fn <=>
    ALL_DISTINCT (fn_labels fn) /\
    fn_has_entry fn /\
    (!bb. MEM bb fn.fn_blocks ==> bb_well_formed bb) /\
    fn_succs_closed fn
```

**Comment by xrchz** [comment]
You probably need to add this to something that gets picked up by vyperHol so it gets built as part of "everything" (if it isn't already)

**Comment by xrchz** [comment]
> https://github.com/verifereum/vyper-hol/pull/123/changes#diff-72b605fcbbf6ab68626bafd215fbf3a507befcd5c8bd8de9006898807ac24018R2 this covers it if i am not mistaken



> https://github.com/verifereum/vyper-hol/pull/123/changes#diff-72b605fcbbf6ab68626bafd215fbf3a507befcd5c8bd8de9006898807ac24018R2 this covers it if i am not mistaken



> https://github.com/verifereum/vyper-hol/pull/123/changes#diff-72b605fcbbf6ab68626bafd215fbf3a507befcd5c8bd8de9006898807ac24018R2 this covers it if i am not mistaken



> https://github.com/verifereum/vyper-hol/pull/123/changes#diff-72b605fcbbf6ab68626bafd215fbf3a507befcd5c8bd8de9006898807ac24018R2 this covers it if i am not mistaken

No it doesn't. We are explicitly listing leaf dependencies in vyperHolScript.sml. It's not just based on Holmakefiles.
